US04243406
The procedure of Example 15 was employed utilizing ethyl-2-(4'-methoxybenzoyl)-3-dimethylaminopropenoate in lieu of ethyl-2-benzoyl-3-dimethylaminopropenoate to yield ethyl-5-(4'-methoxyphenyl)-4-isoxazolecarboxylate (1.5 g.; 61% yield) having a melting point of 57°-59° C. and the following analysis:

reactant | ethyl-2-(4'-methoxybenzoyl)-3-dimethylaminopropenoate | C(C)OC(C(=CN(C)C)C(C1=CC=C(C=C1)OC)=O)=O | C15H19NO4
reactant | ethyl-2-benzoyl-3-dimethylaminopropenoate | C(C)OC(C(=CN(C)C)C(C1=CC=CC=C1)=O)=O | C14H17NO3
product | ethyl-5-(4'-methoxyphenyl)-4-isoxazolecarboxylate | 1.5 g, 61% yield | C(C)OC(=O)C=1C=NOC1C1=CC=C(C=C1)OC | C13H13NO4
